US08729271B2
A mixture of 4-bromo-N-propylpyridine-2-carboxamide (450 mg), phenylboronic acid (330 mg), potassium carbonate (380 mg), tetrakis(triphenylphosphine)palladium (210 mg), dimethylformamide (6.5 mL) and ethanol (3.5 mL) was stirred under irradiation with microwave while heating at 150° C. for 10 min. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic phase was washed with water and brine, and then dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=67:33-50:50) to afford 4-phenyl-N-propylpyridine-2-carboxamide (390 mg).

reactant | 4-bromo-N-propylpyridine-2-carboxamide | 450 mg | BrC1=CC(=NC=C1)C(=O)NCCC | C9H11BrN2O
reactant | phenylboronic acid | 330 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 4-phenyl-N-propylpyridine-2-carboxamide | 390 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)C(=O)NCCC | C15H16N2O
